US05091432
Synthesis of 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-(5-hydroxyl-1H-indol-3-yl)-propionic acid (AIT-0111)
100 mg (0.500 mmol) of DL-5-hydroxytryptophan and 3 ml of dry dimethylsulfoxide were placed in a 25 ml round bottom flask equipped with a magnetic stirring bar and stopper. Then 150 mg (0.456 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) were added and the heterogeneous mixture was stirred for 2.5 hours at room temperature in the closed flask. The mixture became completely homogeneous. The reaction mixture was poured into 20 ml of acetone and a semi-solid precipitate was obtained by filtration. The crude product was washed twice with 2 ml of acetone. The solid was resuspended in 10 ml of acetone and the insoluble material was removed by filtration. The acetone solution was evaporated to dryness. The yield of product 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-(5-hydroxyl-1H-indol-3-yl)-propionic acid (AIT-0111) was 15 mg. Yield: 7.3% (Purity 93 %).

reactant | DL-5-hydroxytryptophan | 0.500 mmol, 100 mg | C1=CC2=C(C=C1O)C(=CN2)CC(C(=O)O)N | C11H12N2O3
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 0.456 mmol, 150 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-(5-hydroxyl-1H-indol-3-yl)-propionic acid | Yield: 7.3% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC(C(=O)O)CC1=CNC2=CC=C(C=C12)O | C19H18N6O5
